US08466282B2
N-[(3S,5R)-5-(azetidin-1-ylcarbonyl)piperidin-3-yl]-5-fluoro-1-(4-methoxybutyl)-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide
tert-Butyl (3R,5S)-3-(azetidin-1-ylcarbonyl)-5-[{[5-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate (80 mg) was dissolved in trifluoroacetic acid (3 ml), and the mixture was stirred at room temperature for 1 hr. Aqueous sodium bicarbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the object product (42 mg).

reactant | tert-Butyl (3R,5S)-3-(azetidin-1-ylcarbonyl)-5-[{[5-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 80 mg | N1(CCC1)C(=O)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC(=C2)F)C(=O)OC(C)(C)C | C31H46FN5O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-[(3S,5R)-5-(azetidin-1-ylcarbonyl)piperidin-3-yl]-5-fluoro-1-(4-methoxybutyl)-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide | 42 mg | N1(CCC1)C(=O)[C@@H]1C[C@@H](CNC1)N(C(=O)C1=NC2=C(N1CCCCOC)C=CC(=C2)F)CC(C)C | C26H38FN5O3
